US05215983
A solution of (2S,4R)-1-allyloxycarbonyl-2-(imidazo [1,2-b]pyrazol-1-yl)methyl-4-methanesulfonyloxypyrrolidine (3.04 g) and potassium thioacetate (1.41 g) in acetonitrile (60 ml) was stirred under refluxing for 4 hours. To the reaction mixture were added ethyl acetate (100 ml) and aqueous sodium chloride (50 ml) with stirring and then the organic layer was separated. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of dichloromethane and acetone (5:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-4-acetylthio-1-allyloxycarbonyl -2-(imidazo[1,2-b]pyrazol-1-yl)methylpyrrolidine (2.33 g).

reactant | (2S,4R)-1-allyloxycarbonyl-2-(imidazo [1,2-b]pyrazol-1-yl)methyl-4-methanesulfonyloxypyrrolidine | 3.04 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CN1C=CN2N=CC=C21 | C15H20N4O5S
reactant | potassium thioacetate | 1.41 g | C(C)(=S)[O-].[K+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium chloride | 50 ml | [Cl-].[Na+]
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | (2S,4S)-4-acetylthio-1-allyloxycarbonyl -2-(imidazo[1,2-b]pyrazol-1-yl)methylpyrrolidine | 2.33 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)CN1C=CN2N=CC=C21 | C16H20N4O3S
